US07320974B2
Methyl Hept-6-en-2-ynoate
A solution of allylmagnesium bromide (1M, 150 mL, 150 mmol) in ether under a nitrogen atmosphere was cooled to −10° C., and propargyl chloride (5.4 mL, 75 mmol) was added dropwise. The solution was stirred for 24 h at room temperature, and then cooled to 0° C. Methyl chloroformate was added dropwise, and the solution was allowed to stir at room temperature for 4 h. The reaction was quenched by cautious addition of satd aq NH4Cl (100 mL) at 0° C. The organic layer was washed with brine, dried, and evaporated to a residue. Chromatography on silica gel provided the title compound (4.5 g, 44%) as a pale yellow liquid.

reactant | allylmagnesium bromide | 150 mmol, 1M, 150 mL | C(C=C)[Mg]Br
reactant | propargyl chloride | 75 mmol, 5.4 mL | C(C#C)Cl | C3H3Cl
reactant | Methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | ether | CCOCC | C4H10O
product | Methyl Hept-6-en-2-ynoate | 4.5 g, 44% | C(C#CCCC=C)(=O)OC | C8H10O2
